US07491713B2
N-[(2S,6R)-4-(Cyclopropylmethyl)-1-methyl-5-oxo-2-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
Potassium carbonate (5.8 mg, 0.040 mmol) was added to a solution of N-[(3R,6S)-1-(cyclopropylmethyl)-7-oxo-3-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide (11.0 mg, 0.021 mmol) and iodomethane (3 □L, 0.040 mmol) in acetone (0.5 mL). After 18 h, the mixture was concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane) gave the title compound (4 mg). MS 543.3 (M+1).

reactant | Potassium carbonate | 0.040 mmol, 5.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-[(3R,6S)-1-(cyclopropylmethyl)-7-oxo-3-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 0.021 mmol, 11.0 mg | C1(CC1)CN1C[C@H](NC[C@@H](C1=O)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H36N6O3
reactant | iodomethane | 0.040 mmol | IC | CH3I
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
product | N-[(2S,6R)-4-(Cyclopropylmethyl)-1-methyl-5-oxo-2-phenyl-1,4-diazepan-6-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 4 mg | C1(CC1)CN1C[C@@H](N(C[C@H](C1=O)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C31H38N6O3
